US08865675B2
Synthesis of (R,Z)-12-(tert-butyldiphenylsilyloxy)octadec-9-enal
To a solution of (R,Z)-12-(tert-butyldiphenylsilyloxy)octadec-9-en-1-ol (11.1 g, 21.2 mmol) in anhydrous dichloromethane (160 mL) was added pyridinium chlorochromate (215.6 g, 110.3 mmol) and sodium carbonate (1.1 g, 18.4 mmol). The mixture was stirred at room temperature for 3 hours then filtered through a pad of silica (eluted with 100% ethyl acetate). The filtrate was concentrated in vacuo to dryness and the residue was purified by column chromatography (gradient: 100% hexanes to 10% ethyl acetate in hexanes) to afford the title compound as a yellow oil (8.9 g, 81%).

reactant | (R,Z)-12-(tert-butyldiphenylsilyloxy)octadec-9-en-1-ol | 21.2 mmol, 11.1 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H](C\C=C/CCCCCCCCO)CCCCCC | C34H54O2Si
reactant | pyridinium chlorochromate | 110.3 mmol, 215.6 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | sodium carbonate | 18.4 mmol, 1.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
product | (R,Z)-12-(tert-butyldiphenylsilyloxy)octadec-9-enal | 8.9 g, 81% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H](C\C=C/CCCCCCCC=O)CCCCCC | C34H52O2Si
